US07320993B1
N-[4-(1H,3H-benzo[de]isoquinolin-2-yl)-butyl]-3-pyridin-3-yl-acrylamide (Substance 225)
Batch size: 1.8 g (12.1 mmol) 3-(3-pyridyl)-acrylic acid, 4.0 g (31.5 mmol) oxalyl chloride and 2.6 g (10.8 mmol) 4-(1H,3H-benzo[de]isoquinolin-2-yl)-butylamine.

reactant | 3-(3-pyridyl)-acrylic acid | 12.1 mmol, 1.8 g | N1=CC(=CC=C1)C=CC(=O)O | C8H7NO2
reactant | oxalyl chloride | 31.5 mmol, 4.0 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-(1H,3H-benzo[de]isoquinolin-2-yl)-butylamine | 10.8 mmol, 2.6 g | C1N(CC2=C3C(C=CC=C13)=CC=C2)CCCCN | C16H20N2
product | N-[4-(1H,3H-benzo[de]isoquinolin-2-yl)-butyl]-3-pyridin-3-yl-acrylamide | C1N(CC2=C3C(C=CC=C13)=CC=C2)CCCCNC(C=CC=2C=NC=CC2)=O | C24H25N3O
